US04870076
2-[2-(2-Methoxybenzenesulphonylamino)-ethyl]-1-methylpyrrol
Prepared from 2-(2-aminoethyl)-1-methylpyrrol and 2-methoxybenzenesulphonylchloride analogously to Example A.

reactant | 2-(2-aminoethyl)-1-methylpyrrol | NCCC=1N(C=CC1)C | C7H12N2
reactant | 2-methoxybenzenesulphonylchloride | COC1=C(C=CC=C1)S(=O)(=O)Cl | C7H7ClO3S
product | 2-[2-(2-Methoxybenzenesulphonylamino)-ethyl]-1-methylpyrrol | COC1=C(C=CC=C1)S(=O)(=O)NCCC=1N(C=CC1)C | C14H18N2O3S
